US06762180B1
(15) 4-[N-(2-dimethylamino-ethyl)-amino]-3-bromo-nitrobenzene
Prepared from 2-bromo-1-fluoro-4-nitro-benzene and N,N-dimethyl-ethylenediamine

reactant | 2-bromo-1-fluoro-4-nitro-benzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | N,N-dimethyl-ethylenediamine | CN(CCN)C | C4H12N2
product | 4-[N-(2-dimethylamino-ethyl)-amino]-3-bromo-nitrobenzene | CN(CCNC1=C(C=C(C=C1)[N+](=O)[O-])Br)C | C10H14BrN3O2
